US07851492B2
4-Chloro-2-(1H-tetrazol-5-yl)-phenylamine (500 mg) dissolved in toluene (15 ml) was treated with 3,5-dichlorophenylisocyanate (500 mg) and stirred for a week. The precipitated product was filtered, washed with toluene, dissolved in acetone, filtered through celite, precipitated again with water, filtered and dried. This residue was slurried in 96% EtOH, and adjusted to basic pH with 10 N NaOH. The solution was filtered through celite and re-acidified with 4N HCl and a little water. The precipitated product was filtered and washed with water to afford 1-[4-Chloro-2-(1H-tetrazol-5-yl)-phenyl]-3-(3,5-dichloro-phenyl)-urea as a white solid (720 mg ). Mp.=234-236° C.

reactant | 4-Chloro-2-(1H-tetrazol-5-yl)-phenylamine | 500 mg | ClC1=CC(=C(C=C1)N)C1=NN=NN1 | C7H6ClN5
reactant | 3,5-dichlorophenylisocyanate | 500 mg | ClC=1C=C(C=C(C1)Cl)N=C=O | C7H3Cl2NO
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[4-Chloro-2-(1H-tetrazol-5-yl)-phenyl]-3-(3,5-dichloro-phenyl)-urea | 720 mg | ClC1=CC(=C(C=C1)NC(=O)NC1=CC(=CC(=C1)Cl)Cl)C1=NN=NN1 | C14H9Cl3N6O
